US08207172B2
Step 6. Preparation of 2-methyl-4-({3-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-yl}amino)phenol
To a suspension of 6-chloro-3-[2-(4-methyl-piperazin-1-yl)-ethyl]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene (150 mg, 0.39 mmol) and 4-amino-O-cresol (71 mg, 0.58 mmol) in isopropanol (5 mL) was added 4M HCl in dioxane (0.67 mL, 2.7 mmol). The reaction mixture was sealed in a microwave reaction vessel and it was placed in a microwave instrument at 160° C. for 10 min. After it was cooled to room temperature, solvents were evaporated and the residue was dissolved in MeOH/water/DMF and purified by prep. HPLC. After drying, the TFA salt was neutralized with saturated NaHCO3 and extracted with a mixture of CHCl3:isopropanol (v/v, 3:1). The organic phase was dried over Na2SO4 and concentrated to dryness. The desired product was obtained as a pale solid (174 mg, 95%). 1H-NMR (CD2Cl2-d2) δ 8.34 (s, 1H), 7.55 (s, 1H), 7.28 (m, 2H), 6.88 (b, 1H), 6.80 (m, 1H), 4.20 (t, 2H, J=6.2 Hz), 3.38 (t, 2H, J=8.3 Hz), 3.13 (t, 2H, J=8.4 Hz), 2.85 (t, 2H, J=6.2 Hz), 2.62-2.45 (b, 8H), 2.30 (s, 3H), 2.26 (s, 3H); LCMS RT=1.89 min; [M+H]+=476.2.

reactant | 6-chloro-3-[2-(4-methyl-piperazin-1-yl)-ethyl]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene | 0.39 mmol, 150 mg | ClC1=C2C=3CCC4=C(C3SC2=NC=N1)C=NN4CCN4CCN(CC4)C | C18H21ClN6S
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 2.7 mmol, 0.67 mL | O1CCOCC1 | C4H8O2
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 2-methyl-4-({3-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-yl}amino)phenol | CC1=C(C=CC(=C1)NC1=NC=NC2=C1C1=C(C=3C=NN(C3CC1)CCN1CCN(CC1)C)S2)O | C25H29N7OS
